US04442115
4-Cyanophenol (119 g) and propionic anhydride (140 g) were heated together at 170° C. for 90 minutes with occasional mild agitation of the reaction vessel. The mixture was then cooled and poured into iced water (1000 ml), whereupon an oil was obtained. This oil was separated and it then solidified. It was recrystallised from a mixture of ethanol and water to give 4-cyanophenyl propionate (95 g), m.p. 44°-46° C.

reactant | 4-Cyanophenol | 119 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | propionic anhydride | 140 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | water | 1000 ml | O | H2O
product | 4-cyanophenyl propionate | 95 g | C(CC)(=O)OC1=CC=C(C=C1)C#N | C10H9NO2
